US08377923B2
3-chloro-4-{4-methyl-5-[1-methyl-1-(2,4,6-trifluorophenoxy)ethyl]-4H-1,2,4-triazol-3-yl}benzoic acid (204 mg), WSC•monohydrochloride (138 mg), HOBt (98 mg) and DMF (4 ml) were mixed and stirred for 30 minutes. Ethyl 2-oxyiminooxalate (190 mg) and triethylamine (0.2 ml) were added thereto, followed by stirring for 2 hours. Water was added to the reaction solution, followed by extraction with ethyl acetate. The organic layer was washed with water, saturated aqueous sodium bicarbonate solution and then saturated brine in this order, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The resulting residue was dissolved in dimethylacetamide (6 ml), followed by stirring at 130° C. for 2 hours. The reaction solution was cooled to room temperature and water was added thereto, followed by extraction with ethyl acetate. The organic layer was washed with water, 1M hydrochloric acid, a 1M aqueous sodium hydroxide solution and then saturated brine in that order, and was dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel chromatography (chloroform:methanol=100:1). The resulting residue was mixed with ethanol (5 ml) and an aqueous ammonia solution (1 ml) was added thereto, followed by stirring for 15 minutes. THF (2 ml) was added thereto, followed by stirring for 15 minutes. The reaction solution was heated until the solid was dissolved, and was then cooled to room temperature, and an aqueous ammonia solution (1 ml) was added thereto, followed by stirring for 15 minutes. Water and a 1M aqueous sodium hydroxide solution were added to the reaction solution, followed by extraction with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was dissolved in ethyl acetate, 4M hydrogen chloride-ethyl acetate (1 ml) was added thereto and the solvent was evaporated under reduced pressure. The resulting solid was washed with hexane to obtain 5-(3-chloro-4-{4-methyl-5-[1-methyl-1-(2,4,6-trifluorophenoxy)ethyl]-4H-1,2,4-triazol-3-yl}phenyl}-1,2,4-oxadiazole-3-carboxamide monohydrochloride (140 mg) as a white solid.

reactant | 3-chloro-4-{4-methyl-5-[1-methyl-1-(2,4,6-trifluorophenoxy)ethyl]-4H-1,2,4-triazol-3-yl}benzoic acid | 204 mg | ClC=1C=C(C(=O)O)C=CC1C1=NN=C(N1C)C(C)(OC1=C(C=C(C=C1F)F)F)C | C19H15ClF3N3O3
reactant | HOBt | 98 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DMF | 4 ml | CN(C)C=O | C3H7NO
reactant | triethylamine | 0.2 ml | C(C)N(CC)CC | C6H15N
solvent | Water | O | H2O
product | 5-(3-chloro-4-{4-methyl-5-[1-methyl-1-(2,4,6-trifluorophenoxy)ethyl]-4H-1,2,4-triazol-3-yl}phenyl}-1,2,4-oxadiazole-3-carboxamide monohydrochloride | 140 mg | Cl.ClC=1C=C(C=CC1C1=NN=C(N1C)C(C)(OC1=C(C=C(C=C1F)F)F)C)C1=NC(=NO1)C(=O)N | InChI=1S/C21H16ClF3N6O3.ClH/c1-21(2,33-15-13(24)7-10(23)8-14(15)25)20-29-28-18(31(20)3)11-5-4-9(6-12(11)22)19-27-17(16(26)32)30-34-19;/h4-8H,1-3H3,(H2,26,32);1H
